US05084085
A stirred mixture of 1.5 g (0.0036 mole) of 1-[2,4-dichloro-5-(4-hydroxyphenylthio)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one, 0.75 g (0.0054 mole) of potassium carbonate, 0.90 g (0.0054 mole) of methyl DL-2-bromopropionate, and 0.20 g (8×10-4 mole) of 18-crown-6 in 30 mL of N,N-dimethylformamide was heated at 100°-120° C. for approximately 18 hours. The reaction mixture was allowed to cool and was poured into ice-water. This aqueous mixture was extracted with diethyl ether and ethyl acetate. The organic extracts were combined and washed with water. The organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure, leaving a yellow oil. This oil was purified by column chromatography on silica gel, eluting with diethyl ether:petroleum ether (40:60) to yield 0.83 g of methyl 2-[4-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl- 5-oxo-1H-1,2,4-triazol-1-yl)phenylthio]phenoxy]propionate as a solid, m.p. 100°-101° C. The nmr spectrum was consistent with the proposed compound.

reactant | 1-[2,4-dichloro-5-(4-hydroxyphenylthio)phenyl]-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.0036 mole, 1.5 g | ClC1=C(C=C(C(=C1)Cl)SC1=CC=C(C=C1)O)N1N=C(N(C1=O)C(F)F)C | C16H11Cl2F2N3O2S
reactant | potassium carbonate | 0.0054 mole, 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl DL-2-bromopropionate | 0.0054 mole, 0.90 g | CC(C(=O)OC)Br | C4H7BrO2
reactant | 18-crown-6 | 8×10-4 mole, 0.20 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl 2-[4-[2,4-dichloro-5-(4-difluoromethyl-4,5-dihydro-3-methyl- 5-oxo-1H-1,2,4-triazol-1-yl)phenylthio]phenoxy]propionate | 0.83 g | ClC1=C(C=C(C(=C1)Cl)N1N=C(N(C1=O)C(F)F)C)SC1=CC=C(OC(C(=O)OC)C)C=C1 | C20H17Cl2F2N3O4S
